US06281356B1
6-(2-Imidazol-1-yl-ethoxy)-1-methyl-1H-indole (185 mg, 0.77 mmol) was dissolved in CH2Cl2 (2 mL) under argon at 0° C. To this was added oxalyl chloride (0.19 mL, 2.18 mmol) in CH2Cl2 (2 mL). After stirring at 0° C. for 4 h, the mixture was evaporated and dried under vacuum for 2 h. 2-(1-Methyl-6-nitro-1H-indol-3-yl)acetimidic acid isopropyl ester hydrochloride (239 mg, 0.77 mmol) and CH2Cl2 (3mL) were added to the above green solid. Triethylamine (0.81 mL, 5.82 mmol) was added slowly at 0° C. and the mixture was stirred at room temperature for 16 h. The mixture was evaporated to dryness and methanol (5 mL) and 12 N hydrochloric acid (1 mL) were added. The mixture was heated to 85° C. for 1 h. After the solvents were evaporated, ethyl acetate (50 mL) was added and the mixture was carefully washed with 5% sodium bicarbonate (3×50 mL). The aqueous layer was back-extracted with ethyl acetate (2×50 mL), then the combined organic extracts were dried (MgSO4), filtered though a pad of silica gel and the pad was washed with 10% methanol/CH2C2 (400 mL). The filtrates were concentrated and the crude product was chromatographed on silica gel with 1% to 5% methanol/ethyl acetate gave an orange solid. Further purification by dissolving the solid in hot CH2C2 (3 mL) and precipitating with ether (20 mL) yielded 3-[6-(2-imidazol-1-yl-ethoxy)-1-methyl-1H-indol-3-yl]-4-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione as an orange solid (0.103 g, 26%).

reactant | 6-(2-Imidazol-1-yl-ethoxy)-1-methyl-1H-indole | 0.77 mmol, 185 mg | N1(C=NC=C1)CCOC1=CC=C2C=CN(C2=C1)C | C14H15N3O
reactant | oxalyl chloride | 2.18 mmol, 0.19 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(1-Methyl-6-nitro-1H-indol-3-yl)acetimidic acid isopropyl ester hydrochloride | 0.77 mmol, 239 mg | Cl.C(C)(C)OC(CC1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=N
reactant | Triethylamine | 5.82 mmol, 0.81 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3mL | C(Cl)Cl | CH2Cl2
product | 3-[6-(2-imidazol-1-yl-ethoxy)-1-methyl-1H-indol-3-yl]-4-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione | 0.103 g, 26% | N1(C=NC=C1)CCOC1=CC=C2C(=CN(C2=C1)C)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)=O | C27H22N6O5
